US08710043B2
To a microwave vial was added 1,3-dioxo-1,3-dihydroisobenzofuran-5-carboxylic acid (200 mg, 1.041 mmol), THF (2 mL) and methylamine (2.0M THF, 2.0 mL). The flask was irradiated in a microwave at 100° C. for 5 min. At this time, AcOH (glacial, 0.4 mL) and an additional portion of methylamine (2.0M THF, 2.0 mL) were added, and the flask was placed in a the microwave at 100° C. for 2 h. The flask was allowed to cool and then azeotropically dried (toluene, 3×5 mL). The flask was placed under a high vacuum for 12 h to provide 2-methyl-1,3-dioxoisoindoline-5-carboxylic acid which was used directly in the amide coupling reaction without further purification.

reactant | 1,3-dioxo-1,3-dihydroisobenzofuran-5-carboxylic acid | 1.041 mmol, 200 mg | O=C1OC(C2=CC(=CC=C12)C(=O)O)=O | C9H4O5
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | methylamine | 2.0M, 2.0 mL | CN | CH5N
reactant | methylamine | 2.0M, 2.0 mL | CN | CH5N
solvent | AcOH | 0.4 mL | CC(=O)O | C2H4O2
product | 2-methyl-1,3-dioxoisoindoline-5-carboxylic acid | CN1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C10H7NO4
